US06294558B1
3-(4-Bromophenyl)-4-(3-fluoro-4-methylthiophenyl)-5-methyl-4,5-dihydro-5-isoxazolol.(step 1)
To a solution of 1-(4-bromophenyl)-2-(3-fluoro-4-methylthiophenyl)ethanone oxime (1.56 g, 4.42 mmol) in tetrahydrofuran (10 ml) was added dropwise 9.7 ml (9.70 mmol) of 1 M lithium N,N-diisopropylamide in tetrahydrofuran and hexane, which was prepared from N,N-diisopropylamine and 1.6 M n-butyl lithium in hexane, over 0.5 h at −78˜−50° C. After 1 h, a solution of N-acetyl imidazole (584 mg, 5.31 mmol) in tetrahydrofuran (10 ml) was added to the mixture at the same temperature. The resulting mixture was allowed to warn up to room temperature and stirred for further 1 h. Then, the mixture was acidified with 2M hydrochloric acid (˜30 ml) and extracted with diethyl ether (150 ml). The separated organic layer was washed with saturated sodium bicarbonate (50 ml×2) and water (50 ml), dried over magnesium sulfate, and evaporated. The obtained oily residue was chromatographed on a column of silica gel (80 g) as eluting with ethyl acetate/hexane (1/4) to afford 632 mg (36%) of the title compound as a colorless oil.

reactant | 1-(4-bromophenyl)-2-(3-fluoro-4-methylthiophenyl)ethanone oxime | 4.42 mmol, 1.56 g | BrC1=CC=C(C=C1)C(CC1=CC(=C(C=C1)SC)F)=NO | C15H13BrFNOS
reactant | lithium N,N-diisopropylamide | 9.70 mmol, 1 M, 9.7 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | N,N-diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | N-acetyl imidazole | 5.31 mmol, 584 mg | C(C)(=O)N1C=NC=C1 | C5H6N2O
reactant | hydrochloric acid | 2M, ˜30 ml | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(4-Bromophenyl)-4-(3-fluoro-4-methylthiophenyl)-5-methyl-4,5-dihydro-5-isoxazolol | 632 mg, 36% | BrC1=CC=C(C=C1)C1=NOC(C1C1=CC(=C(C=C1)SC)F)(O)C | C17H15BrFNO2S
